US04958037
Methyl 7-(4-trimethylsiloxycyclopent-2-en-1-on-2-yl)-5-heptynoate
To a stirred solution of 5.0 g of methyl 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoate in 27 ml of pyridine was added successively 2.53 ml of hexamethyldisilizane and 0.76 ml of chlorotrimethylsilane while maintaining a temperature of 0° to 10° C. The mixture was then stirred at 25° C. for 2 hours and then all volatile materials were evaporated at 30° C. in vacuo. The residue was slurried with hexane and this solution was filtered through diatomaceous earth. The filtrate was evaporated and the residue distilled at 0.06 mm on a Kugelrohr, giving 4.79 g of the desired compound as a colorless oil, bp 135°-140° C.

reactant | methyl 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoate | 5.0 g | OC1C=C(C(C1)=O)CC#CCCCC(=O)OC | C13H16O4
reactant | hexamethyldisilizane | 2.53 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 0.76 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 7-(4-trimethylsiloxycyclopent-2-en-1-on-2-yl)-5-heptynoate | 4.79 g | C[Si](OC1C=C(C(C1)=O)CC#CCCCC(=O)OC)(C)C | C16H24O4Si
